US08440662B2
Step 8: 1-[4(6-Fluoro-4-morpholin-4-yl-7-pyridin-3-yl-quinazolin-2-yl)-phenyl]-3-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-urea
To a 50 mL round bottom flask, 2-chloro-6-fluoro-4-morpholin-4-yl-7-pyridin-3-yl-quinazoline (90 mg, 0.000259 mol), 1-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-3-[4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea (144.7 mg, 0.0003114 mol), cesium carbonate (212.3 mg, 0.000647 mol), DMF (5 mL) and water (2.5 mL) were added. The reaction mixture was degassed with nitrogen for 5-10 min. To the same reaction flask, Pd(PPh3)2Cl2 (9.07 mg, 0.0000131 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified using column chromatography (60-120 silica gel, 5% MeOH in chloroform) to yield the title compound (15 mg, 6%) 1H NMR (300 MHz, DMSO-d6): δ 9.05 (s, 1H), 9.0 (s, 1H), 8.93 (brs, 1H), 8.68-8.72 (m, 1H), 7.92-8.73 (m, 5H), 7.52-7.64 (m, 5H), 7.35 (d, J=8.1 Hz, 2H), 3.85 (s, 8H), 3.46-3.57 (m, 4H), 2.24-2.37 (m, 4H), 2.19 (s, 3H); LC-MS (ESI): Calculated mass: 646.2; Observed mass: 647.2 (RT: 0.11 min).

reactant | 2-chloro-6-fluoro-4-morpholin-4-yl-7-pyridin-3-yl-quinazoline | 0.000259 mol, 90 mg | ClC1=NC2=CC(=C(C=C2C(=N1)N1CCOCC1)F)C=1C=NC=CC1 | C17H14ClFN4O
reactant | 1-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-3-[4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | 0.0003114 mol, 144.7 mg | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H33BN4O4
reactant | cesium carbonate | 0.000647 mol, 212.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.0000131 mol, 9.07 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2.5 mL | O | H2O
product | 1-[4(6-Fluoro-4-morpholin-4-yl-7-pyridin-3-yl-quinazolin-2-yl)-phenyl]-3-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-urea | 15 mg, 6% | FC=1C=C2C(=NC(=NC2=CC1C=1C=NC=CC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C)N1CCOCC1 | C36H35FN8O3
